US08022206B2
1-(4-Fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid [4-(6-aminofuro[3,2-c]pyridin-7-yloxymethyl)phenyl]amide
The mixture of 1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid [4-(6-nitrofuro[3,2-c]pyridin-7-yloxymethyl)phenyl]amide (13.8 mg, 0.0248 mmol), iron powder (62 mg, 1.1 mmol), EtOH (1.5 ml), 1,2-Dichloroethane (1.5 ml), and saturated NH4Cl (0.3 ml) was heated at 75° C. for 30 min. After that time, the solvent was removed, and it was then dissolved in DMSO for Gilson HPLC purification. It gave the title compound as a light-yellow solid. 1H NMR (400 MHz, CDCl3): δ=4.55 (brs, 2H), 5.35 (s, 2H), 6.60 (dd, J=6.8 & 7.2 Hz, 1H), 6.68 (d, J=2.4 Hz, 1H), 7.24-7.29 (m, 2H), 7.38-7.43 (m, 4H), 7.43 (d, J=2.4 Hz, 1H), 7.60 (dd, J=2.0 & 6.8 Hz, 1H), 7.73 (dd, J=2.0 & 6.4 Hz, 2H), 8.07 (s, 1H), 8.75 (dd, J=2.0 & 6.8 Hz, 1H), 11.85 (brs, 1H). MS (ES+): m/z 471.05 [MH+]. HPLC: tR=2.60 min (polar—5 min, ZQ3).

reactant | 1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid [4-(6-nitrofuro[3,2-c]pyridin-7-yloxymethyl)phenyl]amide | 0.0248 mmol, 13.8 mg | [N+](=O)([O-])C1=C(C2=C(C=N1)C=CO2)OCC2=CC=C(C=C2)NC(=O)C=2C(N(C=CC2)C2=CC=C(C=C2)F)=O | C26H17FN4O6
reactant | EtOH | 1.5 ml | CCO | C2H6O
reactant | NH4Cl | 0.3 ml | [NH4+].[Cl-]
catalyst | iron | 1.1 mmol, 62 mg | [Fe] | Fe
solvent | 1,2-Dichloroethane | 1.5 ml | ClCCCl | C2H4Cl2
product | 1-(4-Fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid [4-(6-aminofuro[3,2-c]pyridin-7-yloxymethyl)phenyl]amide | NC1=C(C2=C(C=N1)C=CO2)OCC2=CC=C(C=C2)NC(=O)C=2C(N(C=CC2)C2=CC=C(C=C2)F)=O | C26H19FN4O4
